US08008307B2
Step c: 4-{[(1R,3S,4S)-3-{[tert-butyl(dimethyl)silyl]oxy}-4-({[tert-butyl(dimethyl)silyl]oxy}-methyl)cyclopentyl]oxy}pyridine-2,3-diamine
To a solution of 4-{[(1R,3S,4S)-3-{[tert-butyl(dimethyl)silyl]oxy}-4-({[tert-butyl(dimethyl)silyl]oxy}methyl)cyclopentyl]oxy}-3-nitropyridin-2-amine (0.361 g, 0.000725 mol) in CH2Cl2 (6.00 mL) and acetic acid (3.00 mL) was added zinc (0.474 g, 0.00725 mol) and the mixture was stirred for 30 min. The suspension was filtered and the filtrate was concentrated. The residue was dissolved in 50 ml EtOAc and 3 ml Et3N then washed with water (2×10 mL). The organic layer was dried (MgSO4) and concentrated to afford the crude product (0.297 g, 88%).

reactant | 4-{[(1R,3S,4S)-3-{[tert-butyl(dimethyl)silyl]oxy}-4-({[tert-butyl(dimethyl)silyl]oxy}methyl)cyclopentyl]oxy}-3-nitropyridin-2-amine | 0.000725 mol, 0.361 g | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](C[C@H]1CO[Si](C)(C)C(C)(C)C)OC1=C(C(=NC=C1)N)[N+](=O)[O-] | C23H43N3O5Si2
solvent | CH2Cl2 | 6.00 mL | C(Cl)Cl | CH2Cl2
solvent | acetic acid | 3.00 mL | C(C)(=O)O | C2H4O2
catalyst | zinc | 0.00725 mol, 0.474 g | [Zn] | Zn
product | 4-{[(1R,3S,4S)-3-{[tert-butyl(dimethyl)silyl]oxy}-4-({[tert-butyl(dimethyl)silyl]oxy}-methyl)cyclopentyl]oxy}pyridine-2,3-diamine | 0.297 g, 88% | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](C[C@H]1CO[Si](C)(C)C(C)(C)C)OC1=C(C(=NC=C1)N)N | C23H45N3O3Si2
